US05834463
(3aR*, 10aS*)-9-Benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
A suspension of 9-benzyl-2,3,9,10a-tetrahydrobenzo [b]cyclopenta[e][1,4]diazepin-10(1H)-one (87.5 g, 0.30 mol) and bromocresol green (20 mg) in ethanol (300 mL) in a mixture of ethanol (300 mL) and tetrahydrofuran (300 mL) was cooled to 0° C., to which was added sodium cyanoborohydride (20.8 g, 0.33 mol). To the mixture was added dropwise slowly a 2.43N HCl-ethanol solution until the color of the solution does not change any more. To the reaction mixture was added water (800 mL), to which was added a saturated aqueous solution of sodium hydrogencarbonate to make the pH of the solution alkaline. Resulting crystalline precipitate was collected by filtratin, washed with water, and dried at 60° C. over diphosphorus pentoxide under reduced pressure to give 73.2 g (yield 83%) of the titled compound. The filtrate was concentrated under reduced pressure to distill off the organic solvent. The aqueous layer was subjected to extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, followed by filtration and concentration under reduced pressure. The concentrate was recrystallized from ethyl acetate-hexane to give additional 7.0 g (7%) of the titled compound, m.p. 172°-173° C.

reactant | 9-benzyl-2,3,9,10a-tetrahydrobenzo [b]cyclopenta[e][1,4]diazepin-10(1H)-one | 0.30 mol, 87.5 g | C(C1=CC=CC=C1)N1C2=C(N=C3C(C1=O)CCC3)C=CC=C2 | C19H18N2O
reactant | sodium cyanoborohydride | 0.33 mol, 20.8 g | C(#N)[BH3-].[Na+]
reactant | HCl ethanol | 2.43N | Cl.C(C)O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
catalyst | bromocresol green | 20 mg | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
solvent | water | 800 mL | O | H2O
product | 9-Benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 73.2 g, yield 83% | C(C1=CC=CC=C1)N1C2=C(NC3C(C1=O)CCC3)C=CC=C2 | C19H20N2O
